US07141586B2
N-(cis-4-Amino-cyclohexyl)-5-fluoro-2-(3-methylsulfanyl-phenoxy)-nicotinamide hydrochloride (150 mg, 0.364 mmol) was dissolved in dimethylformamide (3 ml) and triethylamine (153 μl, 1.1 mmol) was added followed by glycolic acid (31 mg, 0.40 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (77 mg, 0.40 mmol) and 1-hydroxybenzotriazole (54 mg, 0.40 mmol). The reaction was stirred under nitrogen at room temperature for 18 h and the solvent was removed under reduced pressure. The residue was partitioned between sat. sodium bicarbonate solution (5 ml) and ethyl acetate (10 ml) and the aqueous phase was extracted with ethyl acetate (2×10 ml). The combined organic extracts were washed with water (2×5 ml), brine (5 ml), dried over MgSO4 and the solvent was removed under reduced pressure. The residue was triturated with diethylether (5 ml) to give 5-Fluoro-N-[cis-4-(2-hydroxy-acetylamino)-cyclohexyl]-2-(3-methylsulfanyl-phenoxy)-nicotinamide (127 mg) as a white solid.

reactant | N-(cis-4-Amino-cyclohexyl)-5-fluoro-2-(3-methylsulfanyl-phenoxy)-nicotinamide hydrochloride | 0.364 mmol, 150 mg | Cl.N[C@H]1CC[C@H](CC1)NC(C1=C(N=CC(=C1)F)OC1=CC(=CC=C1)SC)=O
reactant | triethylamine | 1.1 mmol, 153 μl | C(C)N(CC)CC | C6H15N
reactant | glycolic acid | 0.40 mmol, 31 mg | C(CO)(=O)O | C2H4O3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.40 mmol, 77 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.40 mmol, 54 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 5-Fluoro-N-[cis-4-(2-hydroxy-acetylamino)-cyclohexyl]-2-(3-methylsulfanyl-phenoxy)-nicotinamide | 127 mg | FC=1C=NC(=C(C(=O)N[C@@H]2CC[C@@H](CC2)NC(CO)=O)C1)OC1=CC(=CC=C1)SC | C21H24FN3O4S
